US06333358B1
In a mixture of 10 ml of tetrahydrofuran and 0.1 ml of hexamethylphosphoramide was dissolved 0.50 g of N-acetyl-N-(2-carboxybenzyl)-2-phenoxyaniline, and 0.2 ml of thionyl chloride was added, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated, the residue was dissolved in 10 ml of tetrahydrofuran, and 2 ml of 50% aqueous dimethylamine solution was added dropwise with stirring. The reaction mixture was poured into water and extracted with ethyl acetate, and the extract was washed with 1 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:3) to give 0.49 g of N-acetyl-N-(2-dimethylaminocarbonylbenzyl)-2-phenoxyaniline as an oil.

reactant | N-acetyl-N-(2-carboxybenzyl)-2-phenoxyaniline | 0.50 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C(=O)O | C22H19NO4
reactant | thionyl chloride | 0.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hexamethylphosphoramide | 0.1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-acetyl-N-(2-dimethylaminocarbonylbenzyl)-2-phenoxyaniline | 0.49 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)C(=O)N(C)C | C24H24N2O3
